US07273865B2
2-(3-Methoxy-azetidin-1-yl)-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide
From 2-bromo-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)isonicotinamide with cesium carbonate and 3-methoxy-azetidine hydrochloride. ES-MS m/e (%): 457 (M+H+, 100).

reactant | 2-bromo-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)isonicotinamide | BrC=1C=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=CN1 | C17H16BrN5O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-methoxy-azetidine hydrochloride | Cl.COC1CNC1
product | 2-(3-Methoxy-azetidin-1-yl)-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide | COC1CN(C1)C=1C=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=CN1 | C21H24N6O4S
